US06727264B1
N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-BENZOTHIOPHENE-3-CARBOXAMIDE:
Prepared by Procedure Q1 and Scheme AC using N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 1-benzothiophene-3-carbonyl chloride: ESMS m/e: 464.2 (M+H)+.

reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
reactant | 1-benzothiophene-3-carbonyl chloride | S1C=C(C2=C1C=CC=C2)C(=O)Cl | C9H5ClOS
product | N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-BENZOTHIOPHENE-3-CARBOXAMIDE | C(C(C)C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(=O)C1=CSC2=C1C=CC=C2 | C27H33N3O2S
